US07244728B2
c) 1,1-dimethyl-2-(3-trifluoromethyl-phenyl)-ethylamine
9.8 g (40 mmol) N-[1,1-dimethyl-2-(3-trifluoromethyl-phenyl)-ethyl]-formamide are dissolved in 110 mL ethanol, combined with 200 ml of conc. hydrochloric acid and refluxed overnight. The reaction mixture is added to ice water, made alkaline with sodium hydroxide and extracted with tert.-butylmethylether. The organic phases are washed with water, dried and evaporated down. Then the residue is purified by chromatography.

reactant | N-[1,1-dimethyl-2-(3-trifluoromethyl-phenyl)-ethyl]-formamide | 40 mmol, 9.8 g | CC(CC1=CC(=CC=C1)C(F)(F)F)(C)NC=O | C12H14F3NO
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | 1,1-dimethyl-2-(3-trifluoromethyl-phenyl)-ethylamine | CC(CC1=CC(=CC=C1)C(F)(F)F)(C)N | C11H14F3N
